US07396830B2
Characterization of Piperazine Amidine Intermedates (Table B):
Et3N (1-100 eq.) was added into a solution of 2-keto acyl chloride (1 eq.) and piperazine (1-5 eq.) in an aprotic solvent (such as THF, DMF, dioxane, ether, acetonitrile) and reaction was stirred at room temperature for 17 hours before quenched with saturated aqueous NaHCO3 solution. The aqueous layer was extracted with ethyl acetate. The organic phase combined and dried over anhydrous MgSO4. Concentration in vacuo provided a crude product, which was purified by tritaration, or recrystallization, or silica gel column chromatography, or Shimadzu automated preparative HPLC System.

reactant | Et3N | 1-100 eq. | CCN(CC)CC | C6H15N
reactant | piperazine | 1-5 eq. | N1CCNCC1 | C4H10N2
reactant | THF | C1CCOC1 | C4H8O
reactant | DMF | CN(C)C=O | C3H7NO
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ether | CCOCC | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Piperazine Amidine | N1(CCNCC1)C(=N)N | C5H12N4
